US07547691B2
(S)-2-{5-Chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of (R)-2-{5-chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide, free base of the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and (S)-4-(3-aminopropyl)-3-methylpiperazine-1-carboxylic acid tert-butyl ester. After treating the free base with 12 N HCl (10 equivalents) as described in 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is isolated as a yellow solid. ES+(m/z) 485 (35Cl) and 487 (37Cl) [M(free base)+H].

reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | (S)-4-(3-aminopropyl)-3-methylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)CCCN)C | C13H27N3O2
reactant | HCl | 12 N, 10 equivalents | Cl | ClH
solvent | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
product | (S)-2-{5-Chloro-2-[3-(2-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2[C@H](CNCC2)C | InChI=1S/C24H29ClN6OS.3ClH/c1-15-13-26-9-11-31(15)10-3-8-27-24-28-14-19(25)22(30-24)21-12-18-17(4-2-5-20(18)33-21)23(32)29-16-6-7-16;;;/h2,4-5,12,14-16,26H,3,6-11,13H2,1H3,(H,29,32)(H,27,28,30);3*1H/t15-;;;/m0.../s1
